US07547691B2
(C). Preparation of 2-(2-chloro-5-methylpyrimidin-4-yl)benzo[b]thiophen-4-ol
To a −65° C. solution of (benzo[b]thiophen-4-yloxy)(tert-butyl)dimethylsilane (6.25 g, 23.6 mmol) and triisopropylborate (4.89 g, 26.0 mmol) in THF (60 mL) is added lithium diisopropylamide (13.0 mL of a 2 M solution in heptane/THF/ethylbenzene, 26.0 mmol) dropwise over 5 minutes. The mixture is stirred for 2 hours at −70° C., whereupon the cold bath is removed and the mixture is allowed to warm to room temperature. After 2 hours, to the mixture is then added 2,4-dichloro-5-methylpyrimidine (3.85 g, 23.6 mmol), 2M Na2CO3 (23.6 mL, 47.2 mmol), 1,1′-bis(diphenylphosphino) ferrocene (655 mg, 1.18 mmol) and palladium(II) acetate (265 mg, 1.18 mmol) and the mixture is heated to reflux for 18 hours. Upon cooling to room temperature, the mixture is concentrated under reduced pressure, extracted from water (100 mL) with dichloromethane (3×150 mL) and the organic extracts are concentrated under reduced pressure. The crude material is subjected to chromatography on silica gel, eluting with dichloromethane in hexanes 50-100%, followed by CHCl3 in MeOH 0-100%, to obtain a dark solid. The crude material is extracted from 1 N NaOH (125 mL) with dichloromethane (3×100 mL). The aqueous layer is acidified with 5 N HCl, exhaustively extracted with 10% CHCl3/MeOH followed by 1:1 THF/dichloromethane and concentrated to yield a dark solid. Sonication of the solid in dichloromethane and filtration yielded the title compound as a brown solid (1.10 g, 12% yield).

reactant | (benzo[b]thiophen-4-yloxy)(tert-butyl)dimethylsilane | 23.6 mmol, 6.25 g | S1C2=C(C=C1)C(=CC=C2)O[Si](C)(C)C(C)(C)C | C14H20OSSi
reactant | triisopropylborate | 26.0 mmol, 4.89 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,4-dichloro-5-methylpyrimidine | 23.6 mmol, 3.85 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | Na2CO3 | 47.2 mmol, 2M, 23.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 1.18 mmol, 655 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 1.18 mmol, 265 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2-chloro-5-methylpyrimidin-4-yl)benzo[b]thiophen-4-ol | 1.10 g, 12% yield | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2O)C | C13H9ClN2OS
